US06743816B2
4-Methylsulfinylaniline
20 g (143.66 mmol) of 4-methylthioaniline was placed in a flask and dissolved in 660 mL of CH2Cl2. The solution was cooled to 0° C. and 35.42 g (143.66 mmol) of m-chloroperbenzoic acid was added. The mixture was stirred for 3 h at room temperature and poured into CHCl3. It was then washed with saturated NaHCO3 solution, dried over MgSO4 and the solvent was removed, yielding a crude product that was purified by chromatography on silica gel, using MeOH/EtOAc/hexane mixtures of increasing polarity as eluent. The title compound of the example was obtained as a white solid (17.84 g, 80%).

reactant | 4-methylthioaniline | 143.66 mmol, 20 g | CSC1=CC=C(N)C=C1 | C7H9NS
reactant | m-chloroperbenzoic acid | 143.66 mmol, 35.42 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | CHCl3 | C(Cl)(Cl)Cl | CHCl3
solvent | CH2Cl2 | 660 mL | C(Cl)Cl | CH2Cl2
product | 4-Methylsulfinylaniline | CS(=O)C1=CC=C(N)C=C1 | C7H9NOS
